US07888349B2
Chloroacetyl chloride (5.00 mL, 63.4 mmol) was added dropwise to a 0° C. solution of tert-butyl 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propylcarbamate (from Part D, approximately 57.6 mmol) in dichloromethane (230 mL). The reaction was allowed to warm to room temperature and was stirred for 1 hour. The solvent was removed under reduced pressure to afford tert-butyl 3-({3-[(chloroacetyl)amino][1,5]naphthyridin-4-yl}amino)propylcarbamate hydrochloride as a solid, all of which was used in the next step.

reactant | Chloroacetyl chloride | 63.4 mmol, 5.00 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | tert-butyl 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propylcarbamate | approximately 57.6 mmol | NC=1C=NC2=CC=CN=C2C1NCCCNC(OC(C)(C)C)=O | C16H23N5O2
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
product | tert-butyl 3-({3-[(chloroacetyl)amino][1,5]naphthyridin-4-yl}amino)propylcarbamate hydrochloride | Cl.ClCC(=O)NC=1C=NC2=CC=CN=C2C1NCCCNC(OC(C)(C)C)=O | InChI=1S/C18H24ClN5O3.ClH/c1-18(2,3)27-17(26)22-9-5-8-21-16-13(24-14(25)10-19)11-23-12-6-4-7-20-15(12)16;/h4,6-7,11H,5,8-10H2,1-3H3,(H,21,23)(H,22,26)(H,24,25);1H
